US04060525
3-(2'-Hydroxy-n-butyl)-5,5-dimethylhydantoin
256.3 g of 5,5-dimethylhydantoin (2 mols) and 2.54 g of lithium chloride in 300 ml of dimethylformamide are together stirred at 65° C. 158.8 g of 1,2-butene oxide (2.2 mols) are slowly added dropwise over the course of 2 hours at this temperature. Thereafter the mixture is stirred for a further 4 hours at 100° C. The solution is cooled to room temperature and filtered, and the filtrate is then concentrated on a rotary evaporator at 70° C/20 mm Hg and dried to constant weight at 90° C/0.1 mm Hg. A crystalline, light yellow crude product is obtained in quantitative yield (400.1 g). The substance can be purified by recrystallisation from acetone. Colourless, glistening crystals melting at 87°-88.5° C are obtained.

reactant | 5,5-dimethylhydantoin | 2 mols, 256.3 g | CC1(C(NC(N1)=O)=O)C | C5H8N2O2
reactant | lithium chloride | 2.54 g | [Cl-].[Li+]
reactant | 1,2-butene oxide | 2.2 mols, 158.8 g | CCC1CO1 | C4H8O
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 3-(2'-Hydroxy-n-butyl)-5,5-dimethylhydantoin | quantitative yield | OC(CN1C(NC(C1=O)(C)C)=O)CC | C9H16N2O3
